US04048141
Preparation of Tri-n-butyl(carboxymethyl)phosphonium Chloride
Tri-n-butyl phosphine (4.04 g, 0.02 mole) was added dropwise to a rapidly stirred solution of monochloroacetic acid (1.85 g, 0.02 mole) and 3.2 ml of methanol. The addition of the phosphine was at a rate such that the reaction temperature did not exceed about 30° C. The methanol solvent was subsequently evaporated under reduced pressure leaving a colorless viscous liquid whose infrared spectrum and elemental analysis corresponded to a compound of the formula

reactant | Tri-n-butyl phosphine | 0.02 mole, 4.04 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | monochloroacetic acid | 0.02 mole, 1.85 g | ClCC(=O)O | C2H3ClO2
reactant | phosphine | P | H3P
solvent | methanol | 3.2 ml | CO | CH4O
product | Tri-n-butyl(carboxymethyl)phosphonium Chloride | [Cl-].C(CCC)[P+](CC(=O)O)(CCCC)CCCC | InChI=1S/C14H29O2P.ClH/c1-4-7-10-17(11-8-5-2,12-9-6-3)13-14(15)16;/h4-13H2,1-3H3;1H
